US04001237
4-Amino-6,7-dimethoxy-2-[4-(thiazole-5-carbonyl)piperazin-1-yl]quinazoline Hydrochloride
The title compound was prepared from thiazole-5-carbonyl chloride (0.77 g.) and 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (1.51 g.) following previously described procedures. The product had a m.p. of 280°-281° C. with decomposition.

reactant | thiazole-5-carbonyl chloride | 0.77 g | S1C=NC=C1C(=O)Cl | C4H2ClNOS
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 1.51 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
product | 4-Amino-6,7-dimethoxy-2-[4-(thiazole-5-carbonyl)piperazin-1-yl]quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1=CN=CS1 | InChI=1S/C18H20N6O3S.ClH/c1-26-13-7-11-12(8-14(13)27-2)21-18(22-16(11)19)24-5-3-23(4-6-24)17(25)15-9-20-10-28-15;/h7-10H,3-6H2,1-2H3,(H2,19,21,22);1H
